US08258144B2
4-(4-(cyclopropylamino)-5-(pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide
A mixture of 2-chloro-N-cyclopropyl-5-(pyridin-4-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (135 mg, 0.307 mmol), 4-aminobenzamide (100 mg, 0.735 mmol) and trimethylsilyl chloride (0.200 mL, 1.58 mmol) in nBuOH (3 mL) was stirred at 135° C. for 48 h. It was concentrated in vacuo. The residue was purified by HPLC to give the titled compound (9 mg). MS 386.2 (M+H); UV 201.8, 309.8 nm.

reactant | 2-chloro-N-cyclopropyl-5-(pyridin-4-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.307 mmol, 135 mg | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=NC=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC2CC2 | C21H18ClN5O2S
reactant | 4-aminobenzamide | 0.735 mmol, 100 mg | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
reactant | trimethylsilyl chloride | 1.58 mmol, 0.200 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 3 mL | C(CCC)O | C4H10O
product | 4-(4-(cyclopropylamino)-5-(pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide | 9 mg | C1(CC1)NC=1C2=C(N=C(N1)NC1=CC=C(C(=O)N)C=C1)NC=C2C2=CC=NC=C2 | C21H19N7O
